US06844345B2
a) (R)-4-Methyl-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole-6-carbonitrile hydrochloride
A solution of 80.0 mg (0.26 mmol) 6-cyano-4-methyl-3,4-dihydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester in 3 ml dichloromethane was cooled to 0° C. and treated dropwise with 1 ml trifluoroacetic acid. After 30 min. the solution was concentrated at a rotary evaporator and the residue was chromatographed on silica gel (0.032-0.063 mm) with ethyl acetate: methanol: ammonia (9:1:0.1) as eluant. The product was dissolved in 3 ml diethyl ether and treated dropwise with 43 μl of a 6M hydrochloric acid solution in ethyl acetate. The suspension was filtered and the solid was dried under high vacuum to give the desired compound as light yellow crystals. EI-MS:: m/e=211.2 ([M]).

reactant | 6-cyano-4-methyl-3,4-dihydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester | 0.26 mmol, 80.0 mg | C(C)(C)(C)OC(=O)N1CC=2N(C=3C(=CC=CC3C2)C#N)C(C1)C | C18H21N3O2
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | (R)-4-Methyl-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole-6-carbonitrile hydrochloride | Cl.C[C@@H]1CNCC=2N1C1=C(C=CC=C1C2)C#N | InChI=1S/C13H13N3.ClH/c1-9-7-15-8-12-5-10-3-2-4-11(6-14)13(10)16(9)12;/h2-5,9,15H,7-8H2,1H3;1H/t9-;/m1./s1
